US07005526B2
1-[2-(4-{2-[2-(E)-(4-Trifluoromethoxy-phenyl)-vinyl]-oxazol-4-ylmethoxy}-phenylmethanesulfinyl)-ethyl]-1H-[1,2,3]triazole
To a solution of 101 mg (0.20 mmol) 1-[2-(4-{2-[2-(E)-(4-trifluoromethoxy-phenyl)vinyl]-oxazol-4-ylmethoxy}-benzylsulfanyl)-ethyl]-1H-[1,2,3]triazole in 8 ml dichloromethane at −30° C. were added dropwise during 20 min 54 mg (0.24 mmol) 3-chloro-benzenecarboperoxoic acid dissolved in 2 ml ethyl acetate. After 1 hour stirring at −30° C. the mixture was allowed to warm up over night, diluted with dichloromethane, washed with sodium bicarbonate solution, then with water, dried and evaporated. Elution from silica with ethyl acetate/methanol 9:1 furnished 77 mg (74%) title compound as off-white solid.

reactant | 1-[2-(4-{2-[2-(E)-(4-trifluoromethoxy-phenyl)vinyl]-oxazol-4-ylmethoxy}-benzylsulfanyl)-ethyl]-1H-[1,2,3]triazole | 0.20 mmol, 101 mg | FC(OC1=CC=C(C=C1)/C=C/C=1OC=C(N1)COC1=CC=C(CSCCN2N=NC=C2)C=C1)(F)F | C24H21F3N4O3S
reactant | 3-chloro-benzenecarboperoxoic acid | 0.24 mmol, 54 mg | ClC=1C=C(C=CC1)C(=O)OO | C7H5ClO3
solvent | dichloromethane | 8 ml | ClCCl | CH2Cl2
solvent | ethyl acetate | 2 ml | C(C)(=O)OCC | C4H8O2
product | 1-[2-(4-{2-[2-(E)-(4-Trifluoromethoxy-phenyl)-vinyl]-oxazol-4-ylmethoxy}-phenylmethanesulfinyl)-ethyl]-1H-[1,2,3]triazole | 77 mg, 74% | FC(OC1=CC=C(C=C1)/C=C/C=1OC=C(N1)COC1=CC=C(C=C1)CS(=O)CCN1N=NC=C1)(F)F | C24H21F3N4O4S
